US04803211
To a mixture of 2.00 g of p-hydroxybenzyl alcohol, 3.23 g of ethyl bromoacetate, 2.45 g of anhydrous potassium carbonate and 15 ml of N,N-dimethylformamide was added tetra-n-butylammonium bromide in a catalytic amount. The mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate and insoluble matters were filtered off. The filtrate was washed with an aqueous sodium hydroxide solution and water, in this sequence. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The residue was applied to silica gel column chromatography. Elution with a solvent mixture of hexane-ethyl acetate (3:2) gave 2.16 g of oily ethyl [p-(hydroxymethyl)phenoxy]acetate.

reactant | p-hydroxybenzyl alcohol | 2.00 g | C1=CC(=CC=C1CO)O | C7H8O2
reactant | ethyl bromoacetate | 3.23 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 2.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl [p-(hydroxymethyl)phenoxy]acetate | 2.16 g | OCC1=CC=C(OCC(=O)OCC)C=C1 | C11H14O4
